### PR TITLE
Lemma 3.0.4

### PR DESCRIPTION
**Pull request by Parcly-Taxel**

### CODE REVIEW

**Comment by grunweg** [comment]
Great that you cracked the nut! Can you say a word why the constant changed --- was the blueprint proof always a bit too optimistic, or are you using a simpler proof at the expense of a slightly worse constant? (This could be fine; I'd just like to understand better.)

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 1]
```diff
@@ -109,7 +109,10 @@ lemma biSup {ι : Type*} {𝓑 : Set ι} (h𝓑 : 𝓑.Countable) {T : ι → (
   --   have := (ENNReal.toReal_eq_zero_iff _).mp (hx i hi)
   --   tauto
   intro f g hf hg
-  simp_rw [AESubadditiveOn, Set.forall_in_swap, imp.swap, ← imp_forall_iff] at h hT'
+  simp_rw [AESubadditiveOn] at h
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean:112]: I understand this is fixing a deprecation warning about forall_in_swap.
I wish there was a way to fix these deprecations without making the code much less readable...

File: Carleson/MetricCarleson/Truncation.lean [hunk 2]
```diff
@@ -1,69 +1,285 @@
...
+    obtain ⟨n, hn⟩ := this
+    exact ⟨n, volume_slice_le_inv_two_pow_mul.trans_lt hn⟩
+  rcases eq_zero_or_pos (volume G) with vG | vG; · simpa [vG]
+  have vGnt : volume G ≠ ⊤ := bG.measure_lt_top.ne
+  conv =>
+    enter [1, n]
+    rw [← ENNReal.lt_div_iff_mul_lt (.inl vG.ne') (.inl vGnt), pow_succ', ← ENNReal.div_eq_inv_mul,
+      ENNReal.div_lt_iff (.inl two_ne_zero) (.inl ofNat_ne_top)]
+  have εdvn0 : ε / volume G * 2 ≠ 0 :=
+    mul_ne_zero (ENNReal.div_ne_zero.mpr ⟨εpos.ne', vGnt⟩) two_ne_zero
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:158]: can `positivity` do this? optional

File: Carleson/MetricCarleson/Truncation.lean [hunk 3]
```diff
@@ -1,69 +1,285 @@
...
+    rw [lintegral_union ((slice CP bG mG _).mG.diff (slice CP bG mG _).mG)]; swap
+    · exact disjoint_of_subset_right diff_subset disjoint_sdiff_left
+    rw [Finset.sum_range_succ, mul_add, add_mul, add_mul]; gcongr
+    rw [mul_assoc _ _ (volume G ^ _), ← ENNReal.mul_rpow_of_nonneg _ _ (by positivity)]
+    apply slice_integral_bound.trans; gcongr; exact volume_slice_le_inv_two_pow_mul
+
+end Recursion
+
+lemma sum_le_four_div_q_sub_one (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q') {n : ℕ} :
+    ∑ i ∈ Finset.range n, ((2 : ℝ≥0∞)⁻¹ ^ i) ^ (q' : ℝ)⁻¹ ≤ (2 ^ 2 / (q - 1) : ℝ≥0) := by
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:192]: up to you if writing `2 ^ 2` or `4` is nicer to work with

File: Carleson/MetricCarleson/Truncation.lean [hunk 4]
```diff
@@ -1,69 +1,285 @@
...
 
-/- `S'` is `S` in the blueprint. -/
-lemma S_truncation {S' : ℤ}
-    (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q')
-    (hF : IsBounded F) (hG : IsBounded G)
-    (hf : Measurable f) (h2f : (‖f ·‖) ≤ F.indicator 1) :
-    ∫⁻ x in G, ⨆ (s₁ : ℤ) (s₂ : ℤ) (_ : - S' < s₁) (_ : s₁ < s₂) (_ : s₂ < S'), ‖T_S Q s₁ s₂ f x‖ₑ ≤
+/-- Lemma 3.0.3. `S'` is the blueprint's `S`. -/
+lemma S_truncation {S' : ℤ} (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q')
+    (bF : IsBounded F) (bG : IsBounded G) (mF : MeasurableSet F) (mG : MeasurableSet G)
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:274]: For posterity: this adds hypotheses that `F` and `G` are measurable sets: I guess this is fine.

File: Carleson/MetricCarleson/Truncation.lean [hunk 5]
```diff
@@ -1,69 +1,285 @@
...
+      · norm_num
+    _ = _ := by
+      rw [mul_one, ← two_mul, ← mul_div_assoc 2, ← pow_succ', div_mul_div_comm, ← pow_add,
+        ← pow_succ, C3_0_4]
+
+/-- Lemma 3.0.4. -/
+lemma linearized_truncation (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q')
+    (bF : IsBounded F) (bG : IsBounded G) (mF : MeasurableSet F) (mG : MeasurableSet G)
+    (mf : Measurable f) (nf : (‖f ·‖) ≤ F.indicator 1) (mσ₁ : Measurable σ₁) (mσ₂ : Measurable σ₂)
+    (rσ₁ : (range σ₁).Finite) (rσ₂ : (range σ₂).Finite) (lσ : σ₁ ≤ σ₂) :
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:233]: Any reason why you're renaming `hσ` to `lσ`?

File: Carleson/MetricCarleson/Truncation.lean [hunk 6]
```diff
@@ -1,69 +1,285 @@
...
+      · rw [tsub_le_iff_left, one_add_one_eq_two]; exact hq.2
+      · exact one_le_two
+      · norm_num
+    _ = _ := by
+      rw [mul_one, ← two_mul, ← mul_div_assoc 2, ← pow_succ', div_mul_div_comm, ← pow_add,
+        ← pow_succ, C3_0_4]
+
+/-- Lemma 3.0.4. -/
+lemma linearized_truncation (hq : q ∈ Ioc 1 2) (hqq' : q.HolderConjugate q')
+    (bF : IsBounded F) (bG : IsBounded G) (mF : MeasurableSet F) (mG : MeasurableSet G)
```
Comment (grunweg) [inline Carleson/MetricCarleson/Truncation.lean:231]: For posterity: this adds hypotheses that F and G are measurable sets (which is probably fine),
and rephrases the lemma statement away from "sigma_1 and sigma_2" are bounded by this explicit S'" to "they are finite" (if this works, it's fine, so no objections).

**Comment by grunweg** [comment]
I've thought about it a bit more, and am not too worried about the increased constants. Let's merge this now. Thanks again for all your PRs!
